US07276502B2
1-(5-Piperidin-1-yl-thiazol-2-yl)-ethanone
To a solution of 1-(5-Bromo-thiazol-2-yl)-ethanone (prepared as described above) (250 mg) in dimethylsulfoxide (3 ml) was added piperidine (0.3 ml). The mixture was heated to 50° C. overnight, concentrated to an oil and the residue was purified by flash chromatography (30% ethylacetate/petroleum ether) to afford the sub-titled compound as an yellow solid (170 mg, 68%); 1H NMR (400 Mhz, CDCl3) δ 1.6-1.8 (6H, m), 2.6 (3H, s), 3.25-3.35 (4H, m), 7.05 (1H, s); MS (ES+) 211.1 (M+1).

reactant | 1-(5-Bromo-thiazol-2-yl)-ethanone | 250 mg | BrC1=CN=C(S1)C(C)=O | C5H4BrNOS
reactant | piperidine | 0.3 ml | N1CCCCC1 | C5H11N
solvent | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
product | 1-(5-Piperidin-1-yl-thiazol-2-yl)-ethanone | 170 mg, 68% | N1(CCCCC1)C1=CN=C(S1)C(C)=O | C10H14N2OS
